US06627771B1
Preparation of 4-Cyclopentyl-pyrrolidin-2-one—A solution of 3-azidomethyl-3-cyclopentyl-propionic acid ethyl ester (3.7 g, 16.7 mmol) in 50 mL of MeOH is treated with Raney Nickel under an H2 atmosphere at room temperature. When the theoretical amount of H2 is taken up, the catalyst is removed by filtration and MeOH is evaporated. The remaining solid is recrystallized from hexanes to give 1.5 g (58% yield) of 4-cyclopentyl-pyrrolidin-2-one; mp=117-119° C. NMR (1H, 400 MHz, CDCl3) δ1.1 (2H, m); 1.4-1.6 (4H, m); 1.7 (3H, m); 2.1 (1H, m); 2.3 (1H, m); 2.4 (1H, m); 3.05 (1H, dd); 3.4 (1H, dd). Analysis for C9H15NO: Calculated: C,70.55; H,9.87; N,9.14. Found: C, 70.80; H,9.47; N,9.09.

reactant | 3-azidomethyl-3-cyclopentyl-propionic acid ethyl ester | 16.7 mmol, 3.7 g | C(C)OC(CC(C1CCCC1)CN=[N+]=[N-])=O | C11H19N3O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Raney Nickel | [Ni] | Ni
product | 4-cyclopentyl-pyrrolidin-2-one | 1.5 g, 58% yield | C1(CCCC1)C1CC(NC1)=O | C9H15NO
